US06455528B1
(3) N-(4-Hydroxymethylphenylmethyl)acetamide
To a suspension of aluminum lithium hydride (570 mg) in tetrahydrofuran (80 ml) was added a solution of methyl 4-acetamidomethylbenzoate (3.1 g) in tetrahydrofuran (20 ml) under ice-cooling. The mixture was stirred at room temperature for 1.5 hr and a saturated aqueous sodium sulfate solution (7 ml) was added at 100° C. The mixture was stirred at room temperature for 1 hr. The sediment was filtrated and the solvent was evaporated to give the title substance (2.8 g) as a white solid.

reactant | aluminum lithium hydride | 570 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | methyl 4-acetamidomethylbenzoate | 3.1 g | C(C)(=O)NCC1=CC=C(C(=O)OC)C=C1 | C11H13NO3
reactant | sodium sulfate | 7 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(4-Hydroxymethylphenylmethyl)acetamide | OCC1=CC=C(C=C1)CNC(C)=O | C10H13NO2
